US05306726
B. 4-[(4-Benzyloxyphenyl)ethoxy]benzonitrile
To a suspension of sodium hydride (60%, 2.2 g, 55 mmol) in dry tetrahydrofuran (250 ml) was added a solution of 1-benzyloxy-4-(2-hydroxyethyl)benzene (11.4 g, 50 mmol) in tetrahydrofuran (50 ml). The reaction was heated to 40° C. for 1 hour. 4-Fluorobenzonitrile (6.7 g, 55 mmol) was added and the mixture was heated to reflux for 5 hours, cooled and neutralized with concentrated HCl. The precipitate was filtered, the filtrate was concentrated to dryness and the resulting solid was recrystallized from ethanol (12 g).

reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | 1-benzyloxy-4-(2-hydroxyethyl)benzene | 50 mmol, 11.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCO | C15H16O2
reactant | 4-Fluorobenzonitrile | 55 mmol, 6.7 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[(4-Benzyloxyphenyl)ethoxy]benzonitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOC1=CC=C(C#N)C=C1 | C22H19NO2
